US07402672B2
3-(2-Trifluormethylphenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-10
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2-trifluoromethylphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-10 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.65 (bs, 1H), 8.47 (dd, 1H, J=1.5, 4.5 Hz), 8.15 (bs, 1H), 7.92 (dd, 1H, J=1.2, 8.2 Hz), 7.75 (bs, overlapping dd, 2H), 7.34 (m, 3H), 6.75 (d, 1H, J=7.8 Hz); MS Obs 338.2 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2-trifluoromethylphenyl)disulfide | 1.1 equiv | FC(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(F)(F)F)(F)F | C14H8F6S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-Trifluormethylphenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | FC(C1=C(C=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N)(F)F | C15H10F3N3OS
